US07511067B2
P-1-d) 1,1-dimethyl-3-(5-methyl-3-p-tolyl-[1,2,4]triazol-1-yl]-propylamine
A total of 11 mL trifluoroacetic acid are added dropwise to a solution of 2.97 g (8.3 mmol) of tert.butyl [1,1-dimethyl-3-(5-methyl-3-p-tolyl-[1,2,4]triazol-1-yl)-propyl]-carbamate in 80 mL dichloromethane and the mixture is stirred overnight at ambient temperature. The solvent is distilled off and the residue is combined with diethyl ether and stirred. The precipitated solid is filtered off and washed. Yield: 2.11 g (68%, trifluoroacetate); mass spectroscopy [M+H]+=259.

reactant | trifluoroacetic acid | 11 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert.butyl [1,1-dimethyl-3-(5-methyl-3-p-tolyl-[1,2,4]triazol-1-yl)-propyl]-carbamate | 8.3 mmol, 2.97 g | CC(CCN1N=C(N=C1C)C1=CC=C(C=C1)C)(C)NC(OC(C)(C)C)=O | C20H30N4O2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 1,1-dimethyl-3-(5-methyl-3-p-tolyl-[1,2,4]triazol-1-yl]-propylamine | CC(CCN1N=C(N=C1C)C1=CC=C(C=C1)C)(C)N | C15H22N4
